US07452730B2
A. Preparation of 3-[(tert-Butoxy)carbonylamino]-2-thiophenecarboxylic Acid (11)
A mixture of methyl 3-amino-2-thiophene-carboxylate (2.53 g, 15.9 mmol), Boc2O (7.64 g, 35 mmol), and DMAP (2.04 g, 16.7 mmol) was dissolved in acetone (15 mL) and TEA (5 mL). The reaction mixture was stirred vigorously for 4 h and diluted to a volume of 75 mL with dichloromethane. The resulting solution was washed with cold 1 N HCl (3×50 mL), 1 N NaOH (3×50 mL), and brine (50 mL). The dichloromethane solution was then dried over MgSO4, filtered, and concentrated in vacuo to yield a yellow oil. The crude product was loaded onto a short plug of silica and eluted with 9:1 hexanes/ethyl acetate to yield a pale yellow solid (1.2 g) that was used without further purification. The solid was dissolved in methanol (76 mL) and 50% NaOH (4 mL) and the mixture was stirred for 4 h. The reaction was diluted to a volume of 160 mL with water and concentrated briefly in vacuo. The remaining aqueous solution was washed with diethyl ether (2×80 mL), cooled in an ice bath, and cautiously acidified to pH 2 with sulfuric acid. The suspension was washed with ethyl acetate (3×50 mL) and the combined organic washes were dried over MgSO4, filtered, and concentrated in vacuo to yield (11) as a white solid (0.79 g) in 69% yield over two steps. 1H NMR (DMSO-d6) δ 9.43 (s, 1H), 7.80 (d, J=5.4 Hz, 1H), 7.72 (d, J=5.4 Hz, 1H), 1.46 (s, 9H); 13C NMR (75 MHz, DMSO-d6) δ165.8, 151.8, 144.9, 133.1, 121.2, 109.9, 81.5, 28.6; EI-MS m/e 243.0563 (M+ calculated 243.0565 for C10H13NO4S).

reactant | methyl 3-amino-2-thiophene-carboxylate | 15.9 mmol, 2.53 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | Boc2O | 35 mmol, 7.64 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 16.7 mmol, 2.04 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[(tert-Butoxy)carbonylamino]-2-thiophenecarboxylic Acid | 1.2 g, 69% yield | C(C)(C)(C)OC(=O)NC1=C(SC=C1)C(=O)O | C10H13NO4S
